### ISSUE TITLE
grind: (kernel) application type mismatch `heq_of_eq`

### ISSUE THREAD

**Issue by robin-carlier** [leanprover/lean4#9769]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Some goals trigger a `(kernel) application type mismatch` in grind. See example below

### Context

Extracted from an attempt at grinding [SimplicialObject.Splitting.IndexSet.eqId_iff_mono](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicTopology/SimplicialObject/Split.html#SimplicialObject.Splitting.IndexSet.eqId_iff_mono) in mathlib.

### Steps to Reproduce

```
def Foo (n : Nat) := Σ (m : Nat), {f : Fin (n + 2) → Fin (m + 2) // f 0 = 0}

variable (n : Nat)

def Foo.e (f : Foo n) := f.2.1

def Foo.id : (Foo n) := ⟨n, ⟨fun x => x, rfl⟩⟩

def Foo.EqId (f : Foo n) : Prop :=
  f = (Foo.id _)

structure Bar {n m : Nat} (f : Fin (n + 2) → Fin (m + 1)) : Prop where
  out : f 1 = 1

theorem EqIdToZero (f : Foo n) : f.EqId → Bar f.e := by
  have : Bar (fun x => x : Fin (n + 2) → Fin (n + 2)) := ⟨rfl⟩
  grind [Foo.e, Foo.id, Foo.EqId]
```

**Expected behavior:** grind succeeds or fail on this goal.

**Actual behavior:**
```
(kernel) application type mismatch
  heq_of_eq
argument has type
  failed to pretty print expression (use 'set_option pp.rawOnError true' for raw representation)
but function has type
  ∀ {a' : Fin (n + 2) → Fin (n + 2)}, ⟨fun x => x, ⋯⟩.val = a' → ⟨fun x => x, ⋯⟩.val ≍ a'
```

### Versions

`4.23.0-nightly-2025-08-06`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by robin-carlier** [comment]
I just noticed #9767, perhaps it is already fixed?
